US08426449B2
Step 1: (3-{2-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-4-nitro-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 3, using the following starting materials: [3-(2-ethylaminomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and cyclopropanecarbonyl chloride.

reactant | [3-(2-ethylaminomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CNCC)=O | C20H24N2O6
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | (3-{2-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-4-nitro-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CN(CC)C(=O)C1CC1)=O | C24H28N2O7
